US07442805B2
Synthesis of 1-benzyl-3-phenyl-5-[(quinolin-8-ylsulfonyl)amino]-1H-indole-2-carboxylic acid
The title compound was prepared from ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate and quinoline-8-sulfonyl chloride followed the procedure of Example 1 Step 3 as a pale yellow solid: 1H NMR (DMSO-d6) δ 5.66 (s, 2H, 6.90 (d, J=2.0 Hz, 1H, 6,95-7.05 (m, 5H, 7.15-7.28 (m, 3H, 7.30-7.45 (m, 4H, 7.64 (t, J=7.8 Hz, 1H, 7.75 (dd, J=8.3, 4.1 Hz, 1H, 8.17 (dd, J=7.3, 1.3 Hz, 1H, 8.27 (dd, J=8.2, 1.2 Hz, 1H, 8.57 (dd, J=8.3, 1.7 Hz, 1H, 9.12 (dd, J=4.2, 1.6 Hz, 1H, 9.67 (s, 1H, 12.97 (br s, 1H; MS (ESI) m/z 534 (MH+); MS (ESI) m/z 532 [M-H]−; HRMS calcd for C31H24N3O4S: 534.1477; found (ESI+): 534.1481; Anal. calcd for C31H23N3O4S.0.25H2O: C, 69.19; H, 4.40; N, 7.81. Found: C, 69.28; H, 4.31; N, 7.73.

reactant | ethyl 5-amino-1-benzyl-3-phenyl-1H-indole-2-carboxylate | NC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)OCC)C1=CC=CC=C1 | C24H22N2O2
reactant | quinoline-8-sulfonyl chloride | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
product | 1-benzyl-3-phenyl-5-[(quinolin-8-ylsulfonyl)amino]-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)NS(=O)(=O)C=1C=CC=C2C=CC=NC12)C1=CC=CC=C1)C(=O)O | C31H23N3O4S
